US08383644B2
N-(4-Phenyl-thiazol-2-yl)-acetamide was added to chlorosulfonic acid (5 eq) at 0° C. and allowed to warm to room temperature. The mixture was heated at 70° C. for 1 h and carefully poured into ice. The solid was filtered, washed with water and dried under vacuum to give 4-(2-acetylamino-thiazol-4-yl)-benzenesulfonyl chloride. Characterized by derivatization as N-[4-(4-Isobutylsulfamoyl-phenyl)-thiazol-2-yl]-acetamide, 1H NMR (400 MHz, CD3OD) 8.08 (d, 2H), 7.85 (d, 2H), 7.58 (s, 1H), 2.66 (d, 2H), 2.22 (s, 3H), 1.7 (m, 1H), 0.87 (d, 6H). LCMS (m/z): 354.

reactant | N-(4-Phenyl-thiazol-2-yl)-acetamide | C1(=CC=CC=C1)C=1N=C(SC1)NC(C)=O | C11H10N2OS
reactant | chlorosulfonic acid | 5 eq | ClS(=O)(=O)O | ClHO3S
product | 4-(2-acetylamino-thiazol-4-yl)-benzenesulfonyl chloride | C(C)(=O)NC=1SC=C(N1)C1=CC=C(C=C1)S(=O)(=O)Cl | C11H9ClN2O3S2
